US05516629
Synthesis of 3-bromo-7-(γ-bromopropyloxy) coumarin.
Into a 500 mL round bottom flask containing a 2.5 cm stirring bar was added 13 g of 7-(γ-bromopropyloxy) coumarin and 120-150 mL of THF. When the 7-(γ-bromopropyloxy) coumarin was completely dissolved, 3 mL of bromine was added by syringe. After stirring for 2-5 hours at room temperature, the solution was concentrated by rotary evaporator. 50 mL of a 1:1 mixture of ethyl acetate and hexane was added to the concentrate and the mixture was stirred for 30 minutes at room temperature. The solution was then filtered and the solids washed 3 times with 1:1 ethyl acetate and hexane and then dried for 2 hours. To obtain additional product, the filtrate was concentrated by rotary evaporator and 30 mL of a 1:1 mixture of ethyl acetate and hexane was added to the concentrate. The resulting mixture was then filtered, the solids washed three times with 1:1 ethyl acetate and hexane and then dried for 2-5 hours. The product was checked by TLC (ethyl acetate:hexane (4:6)).

reactant | 7-(γ-bromopropyloxy) coumarin | 13 g | BrCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11BrO3
reactant | bromine | 3 mL | BrBr | Br2
solvent | THF | 120-150 mL | C1CCOC1 | C4H8O
product | 3-bromo-7-(γ-bromopropyloxy) coumarin | BrC=1C(OC2=CC(=CC=C2C1)OCCCBr)=O | C12H10Br2O3
